US04029815
Over a 30 minute period and with constant stirring, add 16 g. of bromine dissolved in 50 ml. of glacial acetic acid to a mixture of 37 g. of N-(2-methyl-3-trifluoromethylphenyl) anthranilic acid in 350 ml. of glacial acetic acid. Pour the resulting mixture into 1500 ml. of water, filter and dry the precipitate. Recrystallize the product from acetonitrile to obtain 5-bromo-N-(2-methyl-3-trifluoromethylphenyl) anthranilic acid, m.p. 223°-225° C.

reactant | bromine | BrBr | Br2
reactant | N-(2-methyl-3-trifluoromethylphenyl) anthranilic acid | CC1=C(C=CC=C1C(F)(F)F)NC=1C(C(=O)O)=CC=CC1 | C15H12F3NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-bromo-N-(2-methyl-3-trifluoromethylphenyl) anthranilic acid | BrC1=CC=C(C(C(=O)O)=C1)NC1=C(C(=CC=C1)C(F)(F)F)C | C15H11BrF3NO2
